### PR TITLE
Counting distribution

### PR DESCRIPTION
**Pull request by lyonel2017**
##### Motivation for this change

Porting the `distr` library from `experimental_real` in order to use `esum` (extracted from https://github.com/math-comp/analysis/pull/2049).

Depends on https://github.com/math-comp/analysis/pull/2062.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Note for later: check how `le_esum_fine` (and `le_pos_esum_fine`) are used and decide they are worth keeping

**Comment by affeldt-aist** [comment]
PR #2062 merged -> need rebasing

**Comment by lyonel2017** [comment]
> PR #2062 merged -> need rebasing

I made a rebase.

**Comment by affeldt-aist** [comment]
The CI is reporting a couple of errors, e.g.:
```
File "./theories/probability_theory/counting_distr.v", line 157, characters 0-36:
Error: The LHS of ge_ereal_sup
    (ereal_sup _ <= _)%E
does not match any subterm of the goal
```

**Comment by lyonel2017** [comment]
A, I messed up something. I will fix this. If that's okay, I will make a few more changes. I started using this PR in a project, and there are things I don't like and/or that are poorly designed (mostly for `dlim`).

**Comment by affeldt-aist** [comment]
No problem (we still have to review https://github.com/math-comp/analysis/pull/2063 beforehand anyway).

Don't hesitate to make micro PRs, especially if among the issues you spotted there are potential fixes to things that have already been merged in master (I am thinking about this PR https://github.com/math-comp/analysis/pull/2062 we merged some time ago) because we are likely to make a release the end of the month.

**Comment by lyonel2017** [comment]
I finish my changes (the issue where in the changes propose in #2064).

> No problem (we still have to review #2063 beforehand anyway).

Review of https://github.com/math-comp/analysis/pull/2063 does not necessary need to be done before #2064, except if we want to use result establish on `lesbegue_integrale` to do some simplification (if possible).

File: theories/probability_theory/counting_distr.v [hunk 1]
```diff
@@ -0,0 +1,2015 @@
...
+  {
+    mu_positive :  forall x, 0 <= mu x ;
+    mu_summable :  esummable [set: T] (EFin \o mu);
+    mu_sum_le_one  :  (esum [set: T] (EFin \o mu) <= 1)%E;
+  }.
+
+HB.structure Definition Distribution (R : realType) (T : choiceType) :=
+  {f of @isDistribution R T f}.
+
+Notation "{ 'distr' T / R }" := (@Distribution.type R T)
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:60]: What about adopting the notation `R.-distr T`? (There are already several datatypes whose notation follow this pattern in MathComp.)

File: theories/probability_theory/counting_distr.v [hunk 2]
```diff
@@ -0,0 +1,2015 @@
...
+Lemma summable_mu : esummable [set: T] (EFin \o mu).
+Proof. exact: mu_summable.  Qed.
+End DistrCoreTh.
+
+#[global] Hint Extern 0 (is_true (0 <= _)) => solve [apply: ge0_mu] : core.
+#[global] Hint Resolve le1_mu summable_mu : core.
+
+(* -------------------------------------------------------------------- *)
+Section Clamp.
+Context {R : realType}.
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:83]: This type could be generalized to at least `realFieldType` and therefore this section is a candidate for PR to MathComp. It might go to `unstable.v` for a while but really MathComp looks like the right place.

File: theories/probability_theory/counting_distr.v [hunk 3]
```diff
@@ -0,0 +1,2015 @@
...
+Proof. by rewrite clamp_in01 // lexx ler01. Qed.
+End Clamp.
+
+(* -------------------------------------------------------------------- *)
+Section StdDefs.
+Context {R : realType} (T : choiceType).
+
+Implicit Types (mu : {distr T / R}) (A B E : pred T) (f : T -> R).
+
+Definition dinsupp mu := fun x => mu x != 0 :> R.
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:115]: The notation of support does not need to be specialized to "distribution".

File: theories/probability_theory/counting_distr.v [hunk 4]
```diff
@@ -0,0 +1,2015 @@
...
+
+Lemma dinsuppP mu x : reflect (mu x <> 0) (x \in dinsupp mu).
+Proof. by apply: (iffP idP) => /eqP. Qed.
+
+Lemma dinsuppPn mu x : reflect (mu x = 0) (x \notin dinsupp mu).
+Proof. by rewrite -topredE /dinsupp /= negbK; apply/eqP. Qed.
+
+Definition pr   mu E := fine (esum [set: T] (EFin \o (fun x => (E x)%:R * mu x))).
+Definition prc  mu E A := pr mu [predI E & A] / pr mu A.
+Definition esp  mu f   := fine (esum [set: T] (EFin \o (fun x => f x * mu x))).
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:129]: Expectation is also defined in `random_variable.v` but for probability measure. It should maybe be generalized to subprobability measure so that the notation can be shared (provided "distributions" are shown to be subprobability measures, which they are).

File: theories/probability_theory/counting_distr.v [hunk 5]
```diff
@@ -0,0 +1,2015 @@
...
+Notation "\E_[ mu ] f"     := (esp mu f).
+Notation "\E_[ mu , A ] f" := (espc mu f A).
+Notation "\E?_[ mu ] f"    := (has_esp mu f).
+Notation dweight mu        := (\P_[mu] predT).
+
+(* -------------------------------------------------------------------- *)
+Section DistrTheory.
+Context {R : realType} {T : choiceType} (mu : T -> R).
+
+Definition isdistr :=
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:146]: This might give raise to a "factory" in HB parlance: an alternative definition that is shown to produce a "distribution" by using HB.builder.

File: theories/probability_theory/counting_distr.v [hunk 6]
```diff
@@ -0,0 +1,2015 @@
...
+rewrite ge0_esum.
++ by move => ? _;rewrite lee_fin.
+rewrite ge_ereal_sup//= => _ [X [finX _]] <-.
+rewrite fsumEFin // lee_fin fsbig_finite //=.
+by apply: h2.
+Qed.
+
+Definition mkdistrd := @isDistribution.Build R T mu isd1 isd2 isd3.
+
+Definition ispredistr {T : choiceType} (mu : T -> R) :=
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:179]: This could have been another mixin but it is actually not used in this PR.

File: theories/probability_theory/counting_distr.v [hunk 7]
```diff
@@ -0,0 +1,2015 @@
...
+(* -------------------------------------------------------------------- *)
+Lemma lef_dnull {R : realType} {T : choiceType} (mu : {distr T / R}) :
+  dnull <=1 mu.
+Proof. by move=> x; rewrite dnullE ge0_mu. Qed.
+
+(* -------------------------------------------------------------------- *)
+Section Restr.
+Context (R : realType) (T : choiceType) (p : pred T).
+
+Definition drestr_fun (mu : {distr T / R}) :=
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:231]: It looks like this is redefining `mrestr` which is already in `measure_function.v` (and that would have come for free if "distributions" were shown to be (probability) measures).

File: theories/probability_theory/counting_distr.v [hunk 8]
```diff
@@ -0,0 +1,2015 @@
...
+Lemma sup_range_lim {R : realType} (u : (\bar R)^nat) :
+  nondecreasing_seq u -> ereal_sup (range u) = limn u.
+Proof.
+by move=> ndu; apply/esym/cvg_lim => //; exact: ereal_nondecreasing_cvgn.
+Qed.
+
+(* -------------------------------------------------------------------- *)
+(* Generic facts about [einfs] / [limn_einf] missing from sequences.v,  *)
+(* used below to make [dlim] total on sequences of subdistributions.    *)
+Lemma einfs_le {R : realType} (u : (\bar R)^nat) n m :
```
Comment (affeldt-aist) [inline theories/probability_theory/counting_distr.v:667]: Maybe do a smaller PR with these facts to accelerate the review process.

Comment (lyonel2017) [reply theories/probability_theory/counting_distr.v:667]: I open a PR: https://github.com/math-comp/analysis/pull/2107

File: theories/probability_theory/counting_distr.v (hunk 2 above)
Comment (lyonel2017) [reply theories/probability_theory/counting_distr.v:83]: I open a PR: https://github.com/math-comp/analysis/pull/2106
